US08648081B2
Add a solution of LiOH—H2O (76 mg, 2 mmol) in water (0.5 mL) to a solution of methyl 2-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)thieno[2,3-b]pyri dine-5-carboxylate (237 mg, 0.5 mmol) in THF (3 mL). Stir the mixture at temperature for 12 hours. After addition of 10 mL of water, acidify the mixture with concentrated HCl to PH=6˜7. Extract the resultant mixture with ethyl acetate (3×10 mL). The combined organic layers are washed brine, dried over anhydrous Na2SO4 and concentrated under vacuum to afford 2-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-thieno[2,3-b]pyridine-5-carboxylic acid as pale yellow solid (170 mg, 73.9%), which is used in next step without further purification. MS (m/z): 461 (M+1).

reactant | LiOH—H2O | 2 mmol, 76 mg | O[Li].O
reactant | methyl 2-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)thieno[2,3-b]pyri dine-5-carboxylate | 0.5 mmol, 237 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=2C(=NC=C(C2)C(=O)OC)S1)C(F)(F)F | C19H11Cl2F3N2O3S
reactant | HCl | Cl | ClH
solvent | water | 0.5 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-thieno[2,3-b]pyridine-5-carboxylic acid | 170 mg, 73.9% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=2C(=NC=C(C2)C(=O)O)S1)C(F)(F)F | C18H9Cl2F3N2O3S
